US06638929B2
A mixture of 0.25 g (1.10 mmol) of 8-chloroimidazo[4,5-g]quinoline-7-carbonitrile, 0.27 g (1.3 mmol) of 2-bromo-4-chloroaniline, and 0.13 g (1.12 mmol) of pyridine hydrochloride in 7.0 mL of 2-ethoxyethanol is heated at reflux temperature for 1 hour, cooled to room temperature, poured into a saturated solution of sodium bicarbonate and stirred for 0.5 hour. The solid is collected by filtration, washed with water and dried. The solid is purified by silica gel chromatography utilizing a gradient of methylene chloride/methanol(97:3 to 90:10) to yield 0.10 g of 8-(2-bromo-4-chlorophenylamino)imidazo[4,5-g]quinoline-7-carbonitrile as an yellow solid, mp 244-246° C. (shrinks at 200° C.).

reactant | 8-chloroimidazo[4,5-g]quinoline-7-carbonitrile | 1.10 mmol, 0.25 g | ClC1=C(C=NC=2CC=3C(=CC12)N=CN3)C#N | C11H5ClN4
reactant | 2-bromo-4-chloroaniline | 1.3 mmol, 0.27 g | BrC1=C(N)C=CC(=C1)Cl | C6H5BrClN
reactant | pyridine hydrochloride | 1.12 mmol, 0.13 g | Cl.N1=CC=CC=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 2-ethoxyethanol | 7.0 mL | C(C)OCCO | C4H10O2
product | 8-(2-bromo-4-chlorophenylamino)imidazo[4,5-g]quinoline-7-carbonitrile | 0.10 g | BrC1=C(C=CC(=C1)Cl)NC1=C(C=NC=2CC=3C(=CC12)N=CN3)C#N | C17H9BrClN5
